US07851473B2
N-[6-(Acetylamino)pyridin-3-yl]-4-[4-(3-fluorophenyl)-1,3-thiazol-2-yl]piperidine-1-carboxamide
A mixture of 2,2,2-trichloroethyl [6-(acetylamino)pyridin-3-yl]carbamate (274 mg, 0.839 mmol), 4-[4-(3-fluorophenyl)-1,3-thiazol-2-yl]piperidine (200 mg, 0.762 mmol) and diisopropylethylamine (0.266 ml, 1.52 mmol) in dimethylsulfoxide (2.5 ml) was stirred at 70° C. for 12 hours. Water was poured into the reaction solution, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was recrystallized from a mixed solvent of hexane and tetrahydrofuran to give the desired product (193 mg, 57.5%) as a solid.

reactant | 2,2,2-trichloroethyl [6-(acetylamino)pyridin-3-yl]carbamate | 0.839 mmol, 274 mg | C(C)(=O)NC1=CC=C(C=N1)NC(OCC(Cl)(Cl)Cl)=O | C10H10Cl3N3O3
reactant | 4-[4-(3-fluorophenyl)-1,3-thiazol-2-yl]piperidine | 0.762 mmol, 200 mg | FC=1C=C(C=CC1)C=1N=C(SC1)C1CCNCC1 | C14H15FN2S
reactant | diisopropylethylamine | 1.52 mmol, 0.266 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethylsulfoxide | 2.5 ml | CS(=O)C | C2H6OS
product | N-[6-(Acetylamino)pyridin-3-yl]-4-[4-(3-fluorophenyl)-1,3-thiazol-2-yl]piperidine-1-carboxamide | 193 mg, 57.5% | C(C)(=O)NC1=CC=C(C=N1)NC(=O)N1CCC(CC1)C=1SC=C(N1)C1=CC(=CC=C1)F | C22H22FN5O2S
